US05246948
Synthesis of 4-[3-(palmitoylamino)propylthio]pyridine
To a solution of 1.21 g (5.00 mmol) of 4-(3-aminopropylthio)pyridine dihydrochloride and 2.79 ml (20.0 mmol) of triethylamine in 50 ml of methylene chloride was added 1.65 ml (6.00 mmol) of palmitoyl chloride under ice-cooling with stirring and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was washed with an aqueous saturated sodium bicarbonate solution and water and dried. The solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate) to obtain the powder which was washed with hexane and dried to obtain 1.50 g of the desired compound (73.8%, colorless powder), mp: 84.0°-85.0° C.

reactant | 4-(3-aminopropylthio)pyridine dihydrochloride | 5.00 mmol, 1.21 g | Cl.Cl.NCCCSC1=CC=NC=C1
reactant | triethylamine | 20.0 mmol, 2.79 ml | C(C)N(CC)CC | C6H15N
reactant | palmitoyl chloride | 6.00 mmol, 1.65 ml | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(palmitoylamino)propylthio]pyridine | 1.50 g, 73.8% | C(CCCCCCCCCCCCCCC)(=O)NCCCSC1=CC=NC=C1 | C24H42N2OS
